US04239901
3 g (10 mmoles) of 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionyl chloride are stirred into 30 ml of concentrated aqueous ammonia solution. Stirring is continued for a further half hour at room temperature; adjustment to pH 12 is effected with sodium hydroxide solution, followed by extraction with ether, drying of the ethereal phase and concentration. 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionamide (m.p. 131°-132° C.) is obtained.

reactant | 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionyl chloride | 10 mmoles, 3 g | ClC=1C=C(C=CC1N1N=CC(=C1)Cl)C(C(=O)Cl)C | C12H9Cl3N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ammonia | 30 ml | N | H3N
product | 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionamide | ClC=1C=C(C=CC1N1N=CC(=C1)Cl)C(C(=O)N)C | C12H11Cl2N3O
